US04482556
9,10-dimethoxy-2-(N-acetyl-2,4,6-trimethylanilino)-6,7-dihydro-4H-pyrimido-(6,1-a)isoquinolin-4one
1.2 ml of triethylamine are added first to an ice-cold solution of 9,10-dimethoxy-2-(2,4,6-trimethyl-anilino)-6,7-dihydro-4H-pyrimido(6,1-a)isoquinolin-4-one (1.6 g) in chloroform (40.0 ml), and then a solution of acetyl chloride (0.64 ml) in chloroform (10.0 ml) is added dropwise. The mixture is stirred for 2 hours. The chloroform solution is washed successively with water, sodium carbonate solution and water, and is then dried over anhydrous sodium sulfate. The solution is filtered and the filtrate evaporated to dryness in vacuo. The residue is triturated with diethyl ether to yield the desired compound in solid form. Yield 1.6 g, m.p. 210°-212° C. (dichloromethane-petroleum ether b.p. 60°-80° C.).

reactant | triethylamine | 1.2 ml | C(C)N(CC)CC | C6H15N
reactant | 9,10-dimethoxy-2-(2,4,6-trimethyl-anilino)-6,7-dihydro-4H-pyrimido(6,1-a)isoquinolin-4-one | 1.6 g | COC=1C=C2CCN3C(C2=CC1OC)=CC(=NC3=O)NC3=C(C=C(C=C3C)C)C | C23H25N3O3
reactant | acetyl chloride | 0.64 ml | C(C)(=O)Cl | C2H3ClO
solvent | chloroform | 40.0 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10.0 ml | C(Cl)(Cl)Cl | CHCl3
product | 9,10-dimethoxy-2-(N-acetyl-2,4,6-trimethylanilino)-6,7-dihydro-4H-pyrimido-(6,1-a)isoquinolin-4one | COC=1C=C2CCN3C(C2=CC1OC)=CC(=NC3=O)N(C3=C(C=C(C=C3C)C)C)C(C)=O | C25H27N3O4
